US08222243B2
(4-Hydroxy-piperidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone
Prepared from 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 4-hydroxypiperdine by the method described in Example 2 Method B. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried to afford product as a colorless solid (141 mg, 78%). 1H NMR (CDCl3) 1.58-1.69 (m, 2 H), 1.93-2.00 (m, 2 H), 2.26 (br s, 1 H), 2.37 (s, 3 H), 3.44-3.52 (m, 2 H), 4.00-4.12 (m, 3 H), 7.33 (d, J=4.0, 1 H), 7.46 (d, J=3.5, 1 H). 13C NMR 7.9, 34.4, 42 (br), 66.9, 114.8, 118.7 (q, J=271), 128.0, 129.2, 131.2, 140.1, 155.2 (q, J=40), 158.1, 162.8. 19F NMR −63.1. LC/MS 5.71 min, [M+1]+ 361.

reactant | 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H6F3NO3S
reactant | 4-hydroxypiperdine | OC1CCNCC1 | C5H11NO
product | (4-Hydroxy-piperidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone | 141 mg, 78% | OC1CCN(CC1)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F | C15H15F3N2O3S
